US05108485
Preparation of 1,2-Dimethyl-4,5-benzimidazoledicarboxylic anhydride
A mixture of 1,2-dimethyl-4,5-benzimidazoledicarboxylic acid (1.00 g, 4.27 mmol) and acetic anhydride (10 mL) is stirred 4 hours at reflux temperature, allowed to stand overnight at room temperature and filtered to afford the title product as yellow crystals (0.830 g, 89.8%), mp 295° C. (dec).

reactant | 1,2-dimethyl-4,5-benzimidazoledicarboxylic acid | 4.27 mmol, 1.00 g | CN1C(=NC=2C1=CC=C(C2C(=O)O)C(=O)O)C | C11H10N2O4
solvent | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 1,2-Dimethyl-4,5-benzimidazoledicarboxylic anhydride | 0.830 g, 89.8% | CN1C(=NC=2C1=CC=C1C2C(=O)OC1=O)C | C11H8N2O3
